US05500474
The mixture is washed with ether and the aqueous layer is concentrated to give white solids. The solids are dissolved in ethanol with heating, and cooled slowly to room temperature to precipitate sodium bromide. The precipitates are filtered off and the filtrate is put in a refrigerator overnight to obtain 5-bromo-t-pentanesulfonic acid sodium salt (12.9 g, 68%) as white crystals. A solution of 5-bromo-1-pentanesulfonic acid sodium salt (12.9 g, 0.05 mol) and aniline (20 g, 0.22 mol) in water (150 mL) is heated under reflux with potassium bicarbonate (6.3 g, 0.075 mol) for 8 hr. After the reaction is completed, the reaction mixture is washed with ether and the aqueous layer is concentrated to give white solids. The solid is recrystallized in methanol to obtain 5-anilino-1-pentanesulfonic acid sodium salt (10.6 g, 80%) as white crystals.

reactant | 5-bromo-1-pentanesulfonic acid sodium salt | 0.05 mol, 12.9 g | [Na+].BrCCCCCS(=O)(=O)[O-]
reactant | aniline | 0.22 mol, 20 g | NC1=CC=CC=C1 | C6H7N
reactant | potassium bicarbonate | 0.075 mol, 6.3 g | C([O-])(O)=O.[K+]
solvent | water | 150 mL | O | H2O
product | 5-anilino-1-pentanesulfonic acid sodium salt | 10.6 g, 80% | [Na+].N(C1=CC=CC=C1)CCCCCS(=O)(=O)[O-] | InChI=1S/C11H17NO3S.Na/c13-16(14,15)10-6-2-5-9-12-11-7-3-1-4-8-11;/h1,3-4,7-8,12H,2,5-6,9-10H2,(H,13,14,15);/q;+1/p-1
